US08022062B2
4-Cyano-N-cycloheptyl-2-methyl-benzamide:
Add cycloheptylamine (0.83 mL, 6.5 mmol), HOBT (838 mg, 6.2 mmol), EDC (1.2 g, 6.2 mmol) and diisopropylethylamine (3.2 mL, 18.6 mmol) to a solution of 4-cyano-2-methyl-benzoic acid (1 g, 6.2 mmol) in dichloromethane (20 mL) at room temperature under a nitrogen atmosphere. Stir the mixture for 16 h at room temperature. Wash the mixture with water (20 mL), separate and concentrate the organic layer in vacuo. Purify the crude mixture by chromatography on silica gel eluting with hexane/EtOAc (19:1 to 3:2 gradient) to obtain the desired intermediate (830 mg, 52%). MS (ES+) m/z: 257.3 (M+H)+.

reactant | cycloheptylamine | 6.5 mmol, 0.83 mL | C1(CCCCCC1)N | C7H15N
reactant | HOBT | 6.2 mmol, 838 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 6.2 mmol, 1.2 g
reactant | diisopropylethylamine | 18.6 mmol, 3.2 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-cyano-2-methyl-benzoic acid | 6.2 mmol, 1 g | C(#N)C1=CC(=C(C(=O)O)C=C1)C | C9H7NO2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 4-Cyano-N-cycloheptyl-2-methyl-benzamide | 830 mg, 52% | C(#N)C1=CC(=C(C(=O)NC2CCCCCC2)C=C1)C | C16H20N2O
